US04258185
A mixture of 5.4 g of 6-(5-methyl-3-oxo-2,3,4,5-tetrahydropyridazin-6-yl)-1-methyl-1,2,3,4-tetrahydroquinolin-2-one, 5.5 g of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone and 500 ml of benzene was heated under reflux for 48 hours. After cooling, the precipitated crystals were filtered off. The filtrate was washed with a 10% sodium hydroxide solution and dried over sodium sulfate. The solvent was distilled off under reduced pressure. The residue and the crystals were combined and purified by using a column chromatograph. The resulting crystals were recrystallized from methanol to give 1.5 g of 6-(5-methyl-3-oxo-2,3,4,5-tetrahydropyridazin-6-yl)-1-methyl-1,2-dihydroquinolin-2-one, melting at 248°-251° C.

reactant | 6-(5-methyl-3-oxo-2,3,4,5-tetrahydropyridazin-6-yl)-1-methyl-1,2,3,4-tetrahydroquinolin-2-one | 5.4 g | CC1CC(NN=C1C=1C=C2CCC(N(C2=CC1)C)=O)=O | C15H17N3O2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 5.5 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | 6-(5-methyl-3-oxo-2,3,4,5-tetrahydropyridazin-6-yl)-1-methyl-1,2-dihydroquinolin-2-one | 1.5 g | CC1CC(NN=C1C=1C=C2C=CC(N(C2=CC1)C)=O)=O | C15H15N3O2
